US05120738
Preparation of 3-(N-Dodecanoylamino)propyl 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionate
N-(3-Hydroxypropyl)dodecanamide (2.57 g) and 2.59 g of 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid were reacted in the same manner as in Example 15 to obtain 3.19 g of the title compound (yield: 64%)

reactant | N-(3-Hydroxypropyl)dodecanamide | 2.57 g | OCCCNC(CCCCCCCCCCC)=O | C15H31NO2
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 2.59 g | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
product | 3-(N-Dodecanoylamino)propyl 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionate | 3.19 g, yield: 64% | CC1(OCC(C(O1)C(=O)NCCC(=O)OCCCNC(CCCCCCCCCCC)=O)(C)C)C | C27H50N2O6
